US05391556
4-Amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepin-6-yl)-2-oxo-ethyl]-3,5-dichloro-benzenesulphonamide
Prepared from 4-amino-N-[1-((4-amino-3-nitro-phenyl)methyl)-2-(5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepin-6-yl)-2-oxo-ethyl]-3,5-dichloro-benzenesulphonamide and cyclising with formic acid in the presence of palladium/charcoal analogously to Example 1.

reactant | 4-amino-N-[1-((4-amino-3-nitro-phenyl)methyl)-2-(5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepin-6-yl)-2-oxo-ethyl]-3,5-dichloro-benzenesulphonamide | NC1=C(C=C(C=C1Cl)S(=O)(=O)NC(C(=O)N1CCC2=C(CC1)SC=N2)CC2=CC(=C(C=C2)N)[N+](=O)[O-])Cl | C22H22Cl2N6O5S2
reactant | formic acid | C(=O)O | CH2O2
catalyst | palladium/charcoal | [Pd] | Pd
product | 4-Amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepin-6-yl)-2-oxo-ethyl]-3,5-dichloro-benzenesulphonamide | NC1=C(C=C(C=C1Cl)S(=O)(=O)NC(C(=O)N1CCC2=C(CC1)SC=N2)CC2=CC1=C(NC=N1)C=C2)Cl | C23H22Cl2N6O3S2
